US06211242B1
A mixture of 4-(4′-nitrobiphenyl-2-carboxamido)-N-methyl-N-[2-[5-(4-methylpiperazin-1-ylcarbonyl)pyrid-2-ylmethoxy]phenyl]benzamide (300 mg) and iron powder (122 mg) in a mixture of ethanol (10 ml) and acetic acid (1 ml) was refluxed for 3 hours and the mixture was evaporated in vacuo. The residue was stirred in a mixture of chloroform (20 ml) and saturated aqueous sodium hydrogen carbonate (20 ml) at ambient temperature for 30 minutes and the mixture was filtered through a bed of Celite. The organic phase of the filtrate was separated and washed with brine. The organic solution was dried over magnesium sulfate and the solvent was evaporated in vacuo to give a syrup. The crude product was purified by silica gel column (chloroform:methanol:conc. ammonia=10:1:0.1) to give 4-(4′-aminobiphenyl-2-carboxamido)-N-methyl-N-[2-[5-(4-methylpiperazin-1-ylcarbonyl)pyrid-2-ylmethoxy]phenyl]benzamide (157 mg) as a pale yellow amorphous.

reactant | 4-(4′-nitrobiphenyl-2-carboxamido)-N-methyl-N-[2-[5-(4-methylpiperazin-1-ylcarbonyl)pyrid-2-ylmethoxy]phenyl]benzamide | 300 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCC2=NC=C(C=C2)C(=O)N2CCN(CC2)C)C)C=C1 | C39H36N6O6
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 122 mg | [Fe] | Fe
product | 4-(4′-aminobiphenyl-2-carboxamido)-N-methyl-N-[2-[5-(4-methylpiperazin-1-ylcarbonyl)pyrid-2-ylmethoxy]phenyl]benzamide | 157 mg | NC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCC2=NC=C(C=C2)C(=O)N2CCN(CC2)C)C)C=C1 | C39H38N6O4
